US07994171B2
2-(4-fluorophenyl)-N-methyl-6-(methylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide.
Step 1: DIEA (134 μL, 0.765 mmol) was added to Pd(Ph3P)4 (30 mg, 0.025 mmol), 2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-(N-(methylsulfonyl)methylsulfonamido)benzofuran-5-yl trifluoromethanesulfonate (150 mg, 0.255 mmol), 3-(ethoxycarbonyl)phenylboronic acid (74 mg, 0.382 mmol). Dioxane (5 mL) and water (1 mL) was added at rt. The reaction was degassed 3× and heated to 90° C. overnight. It was allowed to cool and left to stir for 3 days at rt. Step 2: The mixture was concentrated and diluted with EtOH (5 mL) and treated with excess 1N NaOH (˜1 mL) and allowed to stir at rt overnight to give the meta-acid. The mixture was diluted with EtOAc and washed with 1M HCl, and 1M HCl. The organic phase was dried over Na2SO4, filtered and concentrated. Step 3: The crude residue was diluted with DMF (5 mL) and treated with HATU (145 mg, 0.382 mmol), 2-phenylpropan-2-amine (52 mg, 0.382 mmol) and DIEA (134 μL, 0.765 mmol) and allowed to stir at rt overnight. The mixture was concentrated and purified by preparative reverse phase HPLC on a C18 column using a suitably buffered gradient, and concentrated. The isolated titled compound was re-purified on silica gel (Biotage, EtOAc/hexanes gradient, Rf˜0.2 50% EtOAc/hexanes, fraction collection at λ=254 nm) to give the titled compound (7 mg, 4%). 1H NMR (500 MHz, CD3OD) δ ppm 7.94-8.01 (2H, m), 7.92 (1H, s), 7.83 (1H, d, J=7.63 Hz), 7.77 (1H, s), 7.63-7.68 (2H, m), 7.59 (1H, t, J=7.63 Hz), 7.46 (2H, d, J=7.32 Hz), 7.24-7.32 (4H, m), 7.18 (1H, t, J=7.32 Hz), 2.94 (3H, s), 2.88 (3H, s), 1.77 (6H, s). LC-MS retention time: 2.25 min; m/z (MH+): 600. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 5% acetonitrile/95% H2O/0.1% TFA and solvent B was 5% H2O/95% acetonitrile/0.1% TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. Additional HPLC method: Solvent A=5% CH3CN/95% H2O/0.1% TFA, Solvent B=95% CH3CN/5% H2O/0.1% TFA, Start % B=10, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min. Column: Waters Sunfire C-18, 4.6×150 mm, 3.5 μm, Rt=12.87 min, purity=96%; Column: Waters Xbridge Phenyl column 4.6×150 mm, 3.5 μm, Rt=11.97 min, purity=98%.

reactant | DIEA | 0.765 mmol, 134 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(4-fluorophenyl)-3-(methylcarbamoyl)-6-(N-(methylsulfonyl)methylsulfonamido)benzofuran-5-yl trifluoromethanesulfonate | 0.255 mmol, 150 mg | FC(S(=O)(=O)OC=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)N(S(=O)(=O)C)S(=O)(=O)C)(F)F | C19H16F4N2O9S3
reactant | 3-(ethoxycarbonyl)phenylboronic acid | 0.382 mmol, 74 mg | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | HATU | 0.382 mmol, 145 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-phenylpropan-2-amine | 0.382 mmol, 52 mg | C1(=CC=CC=C1)C(C)(C)N | C9H13N
reactant | DIEA | 0.765 mmol, 134 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | 0.025 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 1 mL | O | H2O
solvent | Dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(4-fluorophenyl)-N-methyl-6-(methylsulfonamido)-5-(3-(2-phenylpropan-2-ylcarbamoyl)phenyl)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)NS(=O)(=O)C)C2=CC(=CC=C2)C(NC(C)(C)C2=CC=CC=C2)=O | C33H30FN3O5S
